US05977105
b) (±)-4'-(2-Hydroxy-4-(3-pyridyl)butoxy)biphenyl-3-carboxamide
Prepared according to the method described in Example 33a) from toluene (3 ml), aqueous sodium carbonate (2 M, 1.4 ml), ethanol (0.8 ml), 3-bromobenzamide (0.5 g), (±)-4-[4-(3-pyridyl)-2-(tert-butyldimethylsilyloxy)butoxy]benzeneboronic acid (1.0 g) and tetrakis(triphenylphosphine)palladium(0) (70 mg) with heating at 120° C. for 3 hours. The residue obtained after work up was purified by column chromatography over silica eluting with 5% ethanol in dichloromethane to give a yellow gum which was deprotected as in Example 34e) using hydrofluoric acid (40%, 5 ml, CAUTION) in acetonitrile (20 ml). The residue obtained after work up was triturated with diethyl ether to give the title compound as a pale yellow solid (0.224 g)

reactant | sodium carbonate | 2 M, 1.4 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-bromobenzamide | 0.5 g | BrC=1C=C(C(=O)N)C=CC1 | C7H6BrNO
reactant | (±)-4-[4-(3-pyridyl)-2-(tert-butyldimethylsilyloxy)butoxy]benzeneboronic acid | 1.0 g | N1=CC(=CC=C1)CCC(COC1=CC=C(C=C1)B(O)O)O[Si](C)(C)C(C)(C)C | C21H32BNO4Si
reactant | hydrofluoric acid | 5 ml | F | FH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-4'-(2-Hydroxy-4-(3-pyridyl)butoxy)biphenyl-3-carboxamide | 0.224 g | OC(COC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)N)CCC=1C=NC=CC1 | C22H22N2O3
